US07125990B2
3-(2,4,6-Trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-ylamine, scheme 1: (D)
To a mixture of N2-(2,4,6-Trimethyl-phenyl)-pyridine-2,3-diamine (3.05 g, 13.4 mmol), NaHCO3 (2.03 g, 24.1 mmol) in ethanol (40 mL) at 0° C., was added a solution of BrCN (2.55 g, 24.1 mmol) in ethanol (6 mL). The resulting mixture was stirred at 0° C. for 1 h, room temperature for 8 h, and then 80° C. for 8 h. Ethanol was removed in vacuo and the residue was taken up into a separatory funnel with methylene chloride (100 mL). The mixture was washed sequentially with 1N NaOH, water and brine, then the organic layer was dried over Na2SO4. After removing solvents, a brown solid was obtained. By LC-MS, the solid was a mixture of the desired product and the unreacted starting material in a ratio of 4:1 in favor of the desired product. Mass spec.: 253.17 (MH+).

reactant | N2-(2,4,6-Trimethyl-phenyl)-pyridine-2,3-diamine | 13.4 mmol, 3.05 g | CC1=C(C(=CC(=C1)C)C)NC1=NC=CC=C1N | C14H17N3
reactant | NaHCO3 | 24.1 mmol, 2.03 g | C(=O)(O)[O-].[Na+]
reactant | BrCN | 24.1 mmol, 2.55 g | BrC#N | CBrN
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-(2,4,6-Trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | CC1=C(C(=CC(=C1)C)C)N1C(=NC=2C1=NC=CC2)N | C15H16N4
